US03975389
8-[α-(nicotinoyloxy)-ethyl]-caffeine
2.57 g of 8-α-chloroethylcaffeine are dissolved in 25 ml of anhydrous dimethylformamide, to which 2.98 g of dry potassium nicotinate are added. The mixture is heated under shaking at 100° C for 1 hour, then filtered off and the filtrate evaporated under reduced pressure. The residue, after washing with water, gives 3.1 g of slightly crude product which is purified by crystallization from 95% ethanol : m.p. (EtOH) 160° C. The monohydrochloride melts at 200°-210° C.

reactant | 8-α-chloroethylcaffeine | 2.57 g | ClC(C)C1=NC=2N(C(N(C)C(C2N1C)=O)=O)C | C10H13ClN4O2
reactant | potassium nicotinate | 2.98 g | C(C1=CN=CC=C1)(=O)[O-].[K+]
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 8-[α-(nicotinoyloxy)-ethyl]-caffeine | C(C1=CN=CC=C1)(=O)OC(C)C1=NC=2N(C(N(C)C(C2N1C)=O)=O)C | C16H17N5O4
